US05929085
(a) N-(2-Phenylethyl)-propionamide
The title compound was prepared in a reaction between phenethylamine (12.1 g, 100 mmol), propionyl chloride (9.25 g, 100 mmol) and triethylamine (20 ml) in methylene chloride (200 ml). The product (10.1 g) was used without purification; MS [M+H]+ 178.

reactant | phenethylamine | 100 mmol, 12.1 g | C(CC1=CC=CC=C1)N | C8H11N
reactant | propionyl chloride | 100 mmol, 9.25 g | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Phenylethyl)-propionamide | C1(=CC=CC=C1)CCNC(CC)=O | C11H15NO
